US06506747B1
Synthesis of [4-(5-Cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-(2-indanylmethyl)amine
A solution of 5-cyano-3-(3-pyridyl)-1-(4′-aminophenyl)pyrazole (185 mg, 0.7 mmol) and indane 2-carboxaldehyde (0.96 mmol, 140 mg) in methanol (9 mL) and acetic acid (1 mL) was stirred at room temp for 30 min. Sodium cyanoborohydride (124 mg, 2 mmol) was added and stirring continued at room temperature. After 3 h the solvent was evaporated under vacuum, and the residue was taken up in sodium bicarbonate solution (50 mL) and extracted with methylene chloride (3×50 mL). The combined extract was washed with water, dried over anhydrous sodium sulfate and evaporated. Chromatography of the residue over silica gel (eluant, 15% ethyl acetate in methylene chloride) gave the title compound as a cream colored solid, m.p. 156-158° C. 1H NMR (DMSO-d6): δ 2.68-2.82 (3H, m), 3.05-3.15 (4H, m), 6.36-6.42 (1H, br. t), 6.75-6.77 (2H, d, J=8.9 Hz), 7.09-7.15 (2H, m), 7.21-7.24 (4H, m), 7.45-7.47 (2H, d, J=8.8 Hz), 7.51-7.54 (1H, m), 7.98 (1H, s), 8.21-8.28 (1H, br. d.), 8.6-8.62 (1H, br. d.), 9.1 (1H, d, J=1.9 Hz).

reactant | 5-cyano-3-(3-pyridyl)-1-(4′-aminophenyl)pyrazole | 0.7 mmol, 185 mg | C(#N)C1=CC(=NN1C1=CC=C(C=C1)N)C=1C=NC=CC1 | C15H11N5
reactant | indane 2-carboxaldehyde | 0.96 mmol, 140 mg | C1C(CC2=CC=CC=C12)C=O | C10H10O
reactant | Sodium cyanoborohydride | 2 mmol, 124 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 9 mL | CO | CH4O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | [4-(5-Cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-(2-indanylmethyl)amine | C(#N)C1=CC(=NN1C1=CC=C(C=C1)NCC1CC2=CC=CC=C2C1)C=1C=NC=CC1 | C25H21N5
